US06291452B1
To a solution of 2-amino-3-chloro-2′-fluorobenzophenone (4.80 g) and pyridine (3.04 g) in methylene chloride (100 ml) was added dropwise bromoacetyl bromide (3.42 ml) under stirring and cooling in an ice-bath. After the addition was completed, the mixture was stirred at ambient temperature for 0.5 hour and refluxed for 0.5 hour. The mixture was allowed to stand to cool to ambient temperature and evaporated in vacuo to give a residue, which was dissolved in ethyl acetate and washed with water three times and brine successively. After drying over magnesium sulfate and treating with active carbon, the solvent was removed in vacuo to give a crystalline mass. Pulverization in diisopropyl ether and collection by filtration afforded 2-(bromoacetylamino)-3-chloro-2′-fluorobenzophenone (5.86 g, 82.4% yield) as a white crystalline powder.

reactant | 2-amino-3-chloro-2′-fluorobenzophenone | 4.80 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=CC=C1Cl | C13H9ClFNO
reactant | pyridine | 3.04 g | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 3.42 ml | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(bromoacetylamino)-3-chloro-2′-fluorobenzophenone | 5.86 g, 82.4% yield | BrCC(=O)NC1=C(C(=O)C2=C(C=CC=C2)F)C=CC=C1Cl | C15H10BrClFNO2
